US06740371B1
Using n-hexyl-3,5-diaminobenzoate (24.0 g, 101.7 mmol) and 4-nitrobenzoyl chloride (39.7 g, 214.4 mmol), n-hexyl[3,5-bis(4-nitrobenzoylamino)]benzoate was obtained (44.5 g, yield: 82%) in the same manner as in Example 1.

reactant | n-hexyl-3,5-diaminobenzoate | 101.7 mmol, 24.0 g | C(CCCCC)OC(C1=CC(=CC(=C1)N)N)=O | C13H20N2O2
reactant | 4-nitrobenzoyl chloride | 214.4 mmol, 39.7 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
product | n-hexyl[3,5-bis(4-nitrobenzoylamino)]benzoate | yield: 82% | C(CCCCC)OC(C1=CC(=CC(=C1)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C27H26N4O8
